* Extracted by KLayout

* cell RINGO
* pin FB
* pin VDD
* pin OUT
* pin ENABLE
* pin VSS
.SUBCKT RINGO 5 6 7 8 9
* net 5 FB
* net 6 VDD
* net 7 OUT
* net 8 ENABLE
* net 9 VSS
* cell instance $1 r0 *1 1.8,0
X$1 6 1 9 6 5 8 9 ND2X1
* cell instance $2 r0 *1 4.2,0
X$2 6 2 9 6 1 9 INVX1
* cell instance $3 r0 *1 6,0
X$3 6 10 9 6 2 9 INVX1
* cell instance $4 r0 *1 16.8,0
X$4 6 3 9 6 11 9 INVX1
* cell instance $5 r0 *1 18.6,0
X$5 6 4 9 6 3 9 INVX1
* cell instance $6 r0 *1 20.4,0
X$6 6 5 9 6 4 9 INVX1
* cell instance $7 r0 *1 22.2,0
X$7 5 6 7 9 6 9 INVX2
* cell instance $15 r0 *1 7.8,0
X$15 6 12 9 6 10 9 INVX1
* cell instance $16 r0 *1 9.6,0
X$16 6 13 9 6 12 9 INVX1
* cell instance $17 r0 *1 11.4,0
X$17 6 14 9 6 13 9 INVX1
* cell instance $18 r0 *1 13.2,0
X$18 6 15 9 6 14 9 INVX1
* cell instance $19 r0 *1 15,0
X$19 6 11 9 6 15 9 INVX1
.ENDS RINGO

* cell INVX2
* pin IN
* pin VDD
* pin OUT
* pin VSS
* pin 
* pin SUBSTRATE
.SUBCKT INVX2 1 2 3 4 5 6
* net 1 IN
* net 2 VDD
* net 3 OUT
* net 4 VSS
* net 6 SUBSTRATE
* device instance $1 r0 *1 0.85,5.8 PMOS
M$1 3 1 2 5 PMOS L=0.25U W=3U AS=0.975P AD=0.975P PS=5.8U PD=5.8U
* device instance $3 r0 *1 0.85,2.135 NMOS
M$3 3 1 4 6 NMOS L=0.25U W=1.9U AS=0.6175P AD=0.6175P PS=4.15U PD=4.15U
.ENDS INVX2

* cell INVX1
* pin VDD
* pin OUT
* pin VSS
* pin 
* pin IN
* pin SUBSTRATE
.SUBCKT INVX1 1 2 3 4 5 6
* net 1 VDD
* net 2 OUT
* net 3 VSS
* net 5 IN
* net 6 SUBSTRATE
* device instance $1 r0 *1 0.85,5.8 PMOS
M$1 2 5 1 4 PMOS L=0.25U W=1.5U AS=0.6375P AD=0.6375P PS=3.85U PD=3.85U
* device instance $2 r0 *1 0.85,2.135 NMOS
M$2 2 5 3 6 NMOS L=0.25U W=0.95U AS=0.40375P AD=0.40375P PS=2.75U PD=2.75U
.ENDS INVX1

* cell ND2X1
* pin VDD
* pin OUT
* pin VSS
* pin 
* pin B
* pin A
* pin SUBSTRATE
.SUBCKT ND2X1 1 2 3 4 5 6 7
* net 1 VDD
* net 2 OUT
* net 3 VSS
* net 5 B
* net 6 A
* net 7 SUBSTRATE
* device instance $1 r0 *1 0.85,5.8 PMOS
M$1 1 6 2 4 PMOS L=0.25U W=1.5U AS=0.6375P AD=0.3375P PS=3.85U PD=1.95U
* device instance $2 r0 *1 1.55,5.8 PMOS
M$2 2 5 1 4 PMOS L=0.25U W=1.5U AS=0.3375P AD=0.6375P PS=1.95U PD=3.85U
* device instance $3 r0 *1 0.85,2.135 NMOS
M$3 8 6 3 7 NMOS L=0.25U W=0.95U AS=0.40375P AD=0.21375P PS=2.75U PD=1.4U
* device instance $4 r0 *1 1.55,2.135 NMOS
M$4 2 5 8 7 NMOS L=0.25U W=0.95U AS=0.21375P AD=0.40375P PS=1.4U PD=2.75U
.ENDS ND2X1
